US07629358B2
Preparation 100: di-tert-Butyl[3-(2-ethyl-2,3-dihydro-1-benzofuran-5-yl)propyl]imidodicarbonate
N,N-Bis-Boc-N-allylamine (2.99 g, 11.6 mmol) was azeotroped with toluene (2×50 mL) then dissolved in tetrahydrofuran (12 mL). The solution was cooled to 0° C., 9-borabicyclo[3.3.1]nonane dimer (0.5M in tetrahydrofuran, 46.5 mL, 23.2 mmol) was added and the mixture was stirred at 0° C. for 3 hours. A mixture of 5-bromo-2-ethyl-2,3-dihydro-benzofuran (preparation 98, enantiomer 2), (2.9 g, 12.8 mmol), tripotassium phosphate (7.7 mL, 23.2 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride (4.74 mg, 0.58 mmol) in N,N-dimethylformamide (12 mL) was added and the reaction mixture was stirred at room temperature for 18 hours. The reaction was then quenched with 2M sodium hydroxide solution (30 mL) and water (10 mL) and stirred for 1 hour at room temperature. The mixture was then extracted with diethyl ether, dried over magnesium sulfate and concentrated in vacuo. The residue was suspended in ethyl acetate:petroleum ether, 25:75, filtered and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate:petroleum ether, 7:93, to afford the title compound as a clear oil in 46% yield, 2.15 g.

reactant | N,N-Bis-Boc-N-allylamine | 11.6 mmol, 2.99 g | C(=O)(OC(C)(C)C)N(CC=C)C(=O)OC(C)(C)C | C13H23NO4
reactant | 9-borabicyclo[3.3.1]nonane dimer | 23.2 mmol, 0.5M, 46.5 mL | B1(C2CCCC1CCC2)B3C4CCCC3CCC4 | C16H28B2
reactant | 5-bromo-2-ethyl-2,3-dihydro-benzofuran | 12.8 mmol, 2.9 g | BrC=1C=CC2=C(CC(O2)CC)C1 | C10H11BrO
reactant | tripotassium phosphate | 23.2 mmol, 7.7 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride | 0.58 mmol, 4.74 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | di-tert-Butyl[3-(2-ethyl-2,3-dihydro-1-benzofuran-5-yl)propyl]imidodicarbonate | 46% yield | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CCCC=1C=CC2=C(CC(O2)CC)C1 | C23H35NO5
